US05817670
Acetic anhydride (40 ml) solution containing 3-(3-chlorobenzoyl)-2-methylaminopyridine (3.16 g, 13 mmol) was heated under reflux for 4 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (benzene-ethyl acetate) to give N-[3-(3-chlorobenzoyl)-2-pyridyl]-N-methylacetamide (3.34 g, 90%).

reactant | 3-(3-chlorobenzoyl)-2-methylaminopyridine | 13 mmol, 3.16 g | ClC=1C=C(C(=O)C=2C(=NC=CC2)NC)C=CC1 | C13H11ClN2O
reactant | Acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[3-(3-chlorobenzoyl)-2-pyridyl]-N-methylacetamide | 3.34 g, 90% | ClC=1C=C(C(=O)C=2C(=NC=CC2)N(C(C)=O)C)C=CC1 | C15H13ClN2O2
